US08377895B2
Preparation of 6-((4-(2-hydroxyethyl) piperazin-1-yl)methyl)-5,7-dihydroxy-8-methoxy-2-phenyl-4H-chromen-4-one [Hydroxyethylpiperazine Wogonin]
The mixture of Wogonin (28.4 g), methanol (350 ml), 37% formaldehyde solution (8.04 ml), 4-N-hydroxyethyl-piperazine (13.1 g) was stirred under for 4 hours at 50° C., then precipitates were removed by filtration and washed several times with methanol, after drying under reduced pressure at 65° C. to get the product as yellow solid 41.7 g of purity 99.5%. MS: (API-ES) m/z 427.5[M+H]+, 449.5[M+Na]+; 1H NMR (DMSO-d6/CF3COOD, 400 MHz): δ 8.11˜8.13 (m, 2H, Ar-2′,6′-H), 7.62˜7.67 (m, 3H, Ar-3′,4′,5′-H), 7.11 (s, 1H, 3-H), 4.45 (s, 2H, CH2), 3.98 (s, 3H, 8-OCH3), 3.78 (t, 2H, —CH2—OH), 3.49-3.69 (m, 8H, CH2), 3.36 (t, 2H, N—CH2).

reactant | Wogonin | 28.4 g | COC=1C(=CC(=C2C1OC(=CC2=O)C=3C=CC=CC3)O)O | C16H12O5
reactant | formaldehyde | 8.04 ml | C=O | CH2O
reactant | 4-N-hydroxyethyl-piperazine | 13.1 g | OCCN1CCNCC1 | C6H14N2O
solvent | methanol | 350 ml | CO | CH4O
product | 6-((4-(2-hydroxyethyl) piperazin-1-yl)methyl)-5,7-dihydroxy-8-methoxy-2-phenyl-4H-chromen-4-one | 41.7 g | OCCN1CCN(CC1)CC=1C(=C2C(C=C(OC2=C(C1O)OC)C1=CC=CC=C1)=O)O | C23H26N2O6
